US06869967B2
(E)-{4-[3-(4-Phenoxy-phenyl)-but-2-enyloxy]-phenyl}-acetic acid
(E)-{4-[3-(4-Phenoxy-phenyl)-but-2-enyloxy]-phenyl}-acetic acid methyl ester (example 20 (150 mg, 0.4 mmol) was suspended in 1N NaOH (1 mL) and ethanol (5 ml) and stirred for 24 h at room temperature. The mixture was diluted with 1N HCl (1 mL) and ethyl acetate (10 mL). The aqueous layer was separated and extracted with ethyl acetate (20 mL) The organic layers were combined, washed with brine, dried (MgSO4) and evaporated to give 116 mg (80%) of the title compound.

reactant | (E)-{4-[3-(4-Phenoxy-phenyl)-but-2-enyloxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C25H24O4
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | HCl | 1N, 1 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (E)-{4-[3-(4-Phenoxy-phenyl)-but-2-enyloxy]-phenyl}-acetic acid | 116 mg, 80% | O(C1=CC=CC=C1)C1=CC=C(C=C1)/C(=C/COC1=CC=C(C=C1)CC(=O)O)/C | C24H22O4
